US06492412B2
1-(3,5-Dichlorophenyl)-propyl Bromide
Triphenylphosphine (315 mg, 1.20 mmol) was added to a solution of 3-(3,5-dichlorophenyl)-propanol (200 mg, 0.98 mmol) in CH2Cl2 (20 mL). The reaction mixture was cooled to 0° C. and bromine (207 mg, 1.30 mmol) was added dropwise. The reaction was stirred at 0° C. for 1 h and was warmed to room temperature. The reaction was poured into water and the aqueous solution was extracted with CH2Cl2. The organic solution was washed with brine, dried over MgSO4, filtered, and concentrated in vacuo. The product was purified by flash chromatography (hexanes) to afford the title compound (134 mg). 1H NMR (400 MHz, CDCl3) δ 7.21 (m, 1H), 7.08 (m, 2H), 3.37 (t, 2H), 2.74 (t, 2H), 2.13 (m, 2H).

reactant | Triphenylphosphine | 1.20 mmol, 315 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(3,5-dichlorophenyl)-propanol | 0.98 mmol, 200 mg | ClC=1C=C(C=C(C1)Cl)CCCO | C9H10Cl2O
reactant | bromine | 1.30 mmol, 207 mg | BrBr | Br2
reactant | water | O | H2O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(3,5-Dichlorophenyl)-propyl Bromide | 134 mg | ClC=1C=C(C=C(C1)Cl)C(CC)Br | C9H9BrCl2
